US05187188
4,5-Diphenyl-2-oxazoleacetamide
A mixture of ethyl 4,5-diphenyl-2-oxazoleacetate (10.24 g, 33 mmol) and ammonia (35 mL) was heated in a bomb at about 130° C. for about 24 hours. After evaporation of the NH3, the residue was chromatographed on a column of silica gel using EtOAc/hexanes (4:1) as eluent to give the title compound (3.21 g, 34%), mp 129°-133° C. IR (KBr) 3340, 3200, 1665 cm-1 ; 1H NMR (CDCl3) δ3.83 (2H, s, CH2CONH2), 7.27 to 7.40 (6H, m, aromatic H), 6.50 to 6.68 (4H, m, aromatic H); MS m/z 279 (MH+).

reactant | ethyl 4,5-diphenyl-2-oxazoleacetate | 33 mmol, 10.24 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CC(=O)OCC | C19H17NO3
reactant | ammonia | 35 mL | N | H3N
product | 4,5-Diphenyl-2-oxazoleacetamide | 3.21 g, 34% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CC(=O)N | C17H14N2O2
